US04178449
3-Dimethylamino-4'-ethylacrylophenone
A mixture of 50 g. of 4'-ethylacetophenone and 50 ml. of dimethylformamide dimethylacetal is refluxed for 16 hours. Evaporation gave a thick oil which crystallized on the addition of hexane, m.p. 80°-81° C.

reactant | 4'-ethylacetophenone | C(C)C1=CC=C(C=C1)C(C)=O | C10H12O
reactant | dimethylformamide dimethylacetal | COC(N(C)C)OC | C5H13NO2
product | 3-Dimethylamino-4'-ethylacrylophenone | CN(C=CC(=O)C1=CC=C(C=C1)CC)C | C13H17NO
